US04626601
A solution of 26 g (0.1 mol) of 4-fluoro-3-phenoxy-benzaldehyde ethyleneacetal in 60 ml of ethanol, 20 ml of water and 1 ml of concentrated hydrochloric acid was stored at room temperature for 3 hours. The ethanol was then distilled off in vacuo, and 100 ml of toluene were added to the residue. The water was separated off and the organic phase was washed twice with 50 ml of water each time, dried over sodium sulphate and evaporated in vacuo. The residue was distilled in vacuo. 19.6 g (91% of theory) of 4-fluoro-3-phenoxy-benzaldehyde were obtained in this manner in the form of a colorless oil with a boiling point of 102°-104° C./0.1 mm Hg.

reactant | 4-fluoro-3-phenoxy-benzaldehyde ethyleneacetal | 0.1 mol, 26 g | C1COC(C2=CC(=C(C=C2)F)OC2=CC=CC=C2)O1 | C15H13FO3
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
solvent | hydrochloric acid | 1 ml | Cl | ClH
product | 4-fluoro-3-phenoxy-benzaldehyde | 19.6 g, 91% | FC1=C(C=C(C=O)C=C1)OC1=CC=CC=C1 | C13H9FO2
